US07687502B2
[6-(2-Fluoro-6-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenoxy)-quinazolin-4-yl]-3-methyl-[1,2,4]thiadiazol-5-yl-amine
The compound of Example 93 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 3-(2,3-difluorophenyl)-5-methyl-1,2,4-oxdiazole, 5-amino-3-methyl-[1,2,4]thiadiazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 3-(2,3-difluorophenyl)-5-methyl-1,2,4-oxdiazole | FC1=C(C=CC=C1F)C1=NOC(=N1)C | C9H6F2N2O
reactant | 5-amino-3-methyl-[1,2,4]thiadiazole | NC1=NC(=NS1)C | C3H5N3S
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [6-(2-Fluoro-6-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenoxy)-quinazolin-4-yl]-3-methyl-[1,2,4]thiadiazol-5-yl-amine | FC1=C(OC=2C=C3C(=NC=NC3=CC2)NC2=NC(=NS2)C)C(=CC=C1)C1=NOC(=N1)C | C20H14FN7O2S
